US04202832
To a solution of 160 g. of 4-bromobutyric acid ethyl ester in 1125 ml. of absolute dimethylformamide were added gradually under an atmosphere of argon at 0° C. while stirring well and cooling, 172.3 g. of ammonium (N-4-chlorobenzyl)dithiocarbamate, the temperature was maintained constant. The slightly yellow solution was stirred overnight at room temperature, diluted with 1500 ml. of water and extracted four times with 500 ml. of ethyl acetate each time. The combined organic phases were washed three times with 200 ml of saturated sodium chloride solution each time and dried over 80 g. of magnesium sulfate with the addition of carbon, filtered and evaporated under reduced pressure. The resulting crystalline residue was recrystallized from 700 ml. of diisopropyl ether, and 218 g. of 4-{[(p-chlorobenzyl)thiocarbamoyl]thio}-butyric acid ethyl ester having a melting point of 61°-62° C. was obtained.

reactant | 4-bromobutyric acid ethyl ester | C(C)OC(CCCBr)=O | C6H11BrO2
reactant | ammonium (N-4-chlorobenzyl)dithiocarbamate | ClC1=CC=C(CNC([S-])=S)C=C1.[NH4+]
solvent | dimethylformamide | CN(C=O)C | C3H7NO
product | 4-{[(p-chlorobenzyl)thiocarbamoyl]thio}-butyric acid ethyl ester | C(C)OC(CCCSC(NCC1=CC=C(C=C1)Cl)=S)=O | C14H18ClNO2S2
